US04550105
In 2 ml of water is dissolved 70 mg of sodium cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-chloroacetoxymethyl-2-oxoazetidine-1-sulfonate (syn-isomer), and under ice-cooling and stirring, 39 mg of sodium monomethyldithiocarbamate is added. The mixture is stirred at room temperature for one hour. After addition of 10 mg of sodium monomethyldithiocarbamate, the mixture is stirred for 30 minutes. The reaction mixture is then filtered and the filtrate is washed with ether. The aqueous layer is chromatographed on an Amberlite XAD-II column and lyophilized to give sodium cis-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-hydroxymethyl-2-oxoazetidine-1-sulfonate (syn-isomer).

reactant | sodium cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-chloroacetoxymethyl-2-oxoazetidine-1-sulfonate | 70 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1COC(CCl)=O)S(=O)(=O)[O-])=O)=NOC.[Na+]
reactant | sodium monomethyldithiocarbamate | 39 mg | CSC(N)=S.[Na]
reactant | sodium monomethyldithiocarbamate | 10 mg | CSC(N)=S.[Na]
solvent | water | 2 ml | O | H2O
product | sodium cis-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-hydroxymethyl-2-oxoazetidine-1-sulfonate | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1CO)S(=O)(=O)[O-])=O)=NOC.[Na+] | InChI=1S/C10H13N5O7S2.Na/c1-22-14-6(4-3-23-10(11)12-4)8(17)13-7-5(2-16)15(9(7)18)24(19,20)21;/h3,5,7,16H,2H2,1H3,(H2,11,12)(H,13,17)(H,19,20,21);/q;+1/p-1/t5-,7+;/m1./s1
